US05441969
2-Amino-1-[3-(1,3,5-trimethyl-4-pyrazolyl)phenyl]benzimidazole was prepared from 3-(2-amino-1-benzimidazolyl)-phenyl-1,3,2-dioxaborinane and 4-bromo- 1,3,5-trimethylpyrazole by method A. mp 198°-200° C.

reactant | 3-(2-amino-1-benzimidazolyl)-phenyl-1,3,2-dioxaborinane | NC1=NC2=C(N1C=1C=C(C=CC1)B1OCCCO1)C=CC=C2 | C16H16BN3O2
reactant | 4-bromo- 1,3,5-trimethylpyrazole | BrC=1C(=NN(C1C)C)C | C6H9BrN2
product | 2-Amino-1-[3-(1,3,5-trimethyl-4-pyrazolyl)phenyl]benzimidazole | NC1=NC2=C(N1C1=CC(=CC=C1)C=1C(=NN(C1C)C)C)C=CC=C2 | C19H19N5
